US07094801B2
4-{3E-[2,4-Dimethoxy-5-(1-methyl-1H-indol-2-yl)-phenyl]-acryloyl}-benzoic acid
The title compound was prepared by condensing 4-acetylbenzoic acid and 2,4-dimethoxy-5-(1-methyl-1H-indol-2-yl)-benzaldehyde (Ex-116A) in a similar manner as described in Ex-3. Yellow solid, 87% yield, mp 157–160° C. 1H-NMR (DMSO-d6) δ 8.17 (d, J=8 Hz, 2H), 8.08 (d, J=15 Hz, 1H), 7.99–9.02 (m 3H), 7.83 (d, J=15 Hz, 1H), 7.52 (d, J=8 Hz, 1H), 7.42 (d, J=8 Hz, 1H), 7.10–7.15 (m, 1H), 6.99–7.04 (m, 1H), 6.85 (s, 1H), 6.42 (s, 1H), 4.01 (s, 3H), 3.88 (s, 3H), 3.50 (s, 3H). MS m/z=442 ([M+H]+, 100%). HRMS (ES+) Calcd. for C27H23NO5: 442.1654. Found: 442.1633.

reactant | 4-acetylbenzoic acid | C(C)(=O)C1=CC=C(C(=O)O)C=C1 | C9H8O3
reactant | 2,4-dimethoxy-5-(1-methyl-1H-indol-2-yl)-benzaldehyde | COC1=C(C=O)C=C(C(=C1)OC)C=1N(C2=CC=CC=C2C1)C | C18H17NO3
product | 4-{3E-[2,4-Dimethoxy-5-(1-methyl-1H-indol-2-yl)-phenyl]-acryloyl}-benzoic acid | 87% yield | COC1=C(C=C(C(=C1)OC)C=1N(C2=CC=CC=C2C1)C)/C=C/C(=O)C1=CC=C(C(=O)O)C=C1 | C27H23NO5
